US04997840
A solution of benzoic acid (18.8 g) in triethylamine (28.5 ml) and dichloromethane (110 ml) at 0° was added dropwise over 1 hour to the solution of 5'-chloro-2'-(2-chloroacetyl)-N-methylformanilide at 0° under nitrogen. The mixture was stirred for a further hour whilst maintaining the temperature at 0 to 5° and then heated under reflux overnight. After cooling, the reaction mixture was washed with water (2×100 ml), dried over magnesium sulphate, and the solvent removed by distillation to give the novel compound 2-[4-chloro-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate in the form of a gum.

reactant | benzoic acid | 18.8 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 5'-chloro-2'-(2-chloroacetyl)-N-methylformanilide | ClC=1C=CC(=C(N(C=O)C)C1)C(CCl)=O | C10H9Cl2NO2
solvent | triethylamine | 28.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 2-[4-chloro-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=C(C=C1)Cl)N(C=O)C | C17H14ClNO4
